US08071807B2
Step 4: (3-Chloro-5-hydroxy-phenyl)-acetic acid methyl ester
To (3-benzyloxy-5-chloro-phenyl)-acetic acid methyl ester (8 g, 28 mmol) in CH2Cl2 (100 mL) at 0° C. was added boron tribromide (1M in CH2Cl2; 56 mL, 56 mmol). The reaction mixture was warmed to room temperature over 30 minutes and stirred for 2 hours. Once no starting material was seen by analytical LCMS and tlc, the mixture was cooled to 0° C. and quenched with H2O (50 mL). The volume was reduced, and the residue was diluted with EtOAc (500 mL). The solid material was filtered, and the organic layer was separated and concentrated. The crude material was purified by silica gel chromatography to give the title compound.

reactant | (3-benzyloxy-5-chloro-phenyl)-acetic acid methyl ester | 28 mmol, 8 g | COC(CC1=CC(=CC(=C1)Cl)OCC1=CC=CC=C1)=O | C16H15ClO3
reactant | boron tribromide | 56 mmol, 1M, 56 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (3-Chloro-5-hydroxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC(=C1)O)Cl)=O | C9H9ClO3
